US09193720B2
To a stirred solution of (S)-ethyl 2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-5-(4-hydroxyphenyl)-2,6-dimethylpyridin-3-yl)acetate (25 mg, 0.053 mmol), thiazol-5-ylmethanol (18.43 mg, 0.160 mmol) and Ph3P-resin (69.7 mg, 0.267 mmol) in THF (2 mL) was added DEAD (0.025 mL, 0.160 mmol) at rt. After 18 h, mixture was filtered to remove polymer, concentrated and treated with 1N NaOH (1.067 mL, 1.067 mmol) in MeOH (1 mL) at 75° C. for 16 h. Mixture was then cooled and purified by prep-HPLC to afford (S)-2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-2,6-dimethyl-5-(4-(thiazol-5-ylmethoxy)phenyl)pyridin-3-yl)acetic acid (14.1 mg, 0.026 mmol, 49.2% yield). 1H NMR (500 MHz, DMSO-d6) δ 9.13 (s, 1H), 8.03 (s, 1H), 7.25 (d, J=8.8 Hz, 1H), 7.17-7.09 (m, 2H), 7.09-7.03 (m, 1H), 5.83 (s, 1H), 5.54-5.40 (m, 2H), 3.28 (d, J=10.3 Hz, 1H), 2.78 (t, J=11.0 Hz, 1H), 2.43 (s, 3H), 2.17 (d, J=10.3 Hz, 1H), 2.06 (s, 3H), 1.97-1.82 (m, 1H), 1.49 (br. s., 1H), 1.28 (d, J=12.1 Hz, 1H), 1.17 (d, J=11.7 Hz, 1H), 1.13 (s, 9H), 1.01 (d, J=9.9 Hz, 1H), 0.85 (br. s., 3H), 0.58 (s, 3H). LCMS (M+H)=538.5.

reactant | (S)-ethyl 2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-5-(4-hydroxyphenyl)-2,6-dimethylpyridin-3-yl)acetate | 0.053 mmol, 25 mg | C(C)(C)(C)O[C@H](C(=O)OCC)C=1C(=NC(=C(C1N1CCC(CC1)(C)C)C1=CC=C(C=C1)O)C)C | C28H40N2O4
reactant | thiazol-5-ylmethanol | 0.160 mmol, 18.43 mg | S1C=NC=C1CO | C4H5NOS
reactant | Ph3P | 0.267 mmol, 69.7 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DEAD | 0.160 mmol, 0.025 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | NaOH | 1.067 mmol, 1N, 1.067 mL | [OH-].[Na+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | MeOH | 1 mL | CO | CH4O
product | (S)-2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-2,6-dimethyl-5-(4-(thiazol-5-ylmethoxy)phenyl)pyridin-3-yl)acetic acid | 0.026 mmol, 14.1 mg, 49.2% yield | C(C)(C)(C)O[C@H](C(=O)O)C=1C(=NC(=C(C1N1CCC(CC1)(C)C)C1=CC=C(C=C1)OCC1=CN=CS1)C)C | C30H39N3O4S
